US07919509B2
Preparation of 1,5,5-trimethyl-3-[4-[2-oxo-8-propyl-4-(trifluoromethyl)-2H-chromen-7-yloxy]butyl]imidazolidine-2,4-dione
A 2-butanone (2 mL) solution of 7-hydroxy-8-propyl-4-(trifluoromethyl)-2H-chromen-2-one (30 mg, 0.11 mmol), 3-(4-bromobutyl)-1,5,5-trimethylimidazolidine-2,4-dione (30.5 mg, 0.11 mmol), and potassium carbonate (22.8 mg, 0.165 mmol) was heated and stirred overnight at 80° C. The reaction solution was added with water and extracted with ethyl acetate. Subsequently, the organic layer was washed with saturated saline, dried using anhydrous sodium sulfate, and concentrated under vacuum. The obtained residue was purified using thin-layer silica-gel chromatography (hexane:ethyl acetate=1:1), and 53.5 mg of the title compound (yield 100%) was obtained as colorless oil.

reactant | 2-butanone | 2 mL | CC(CC)=O | C4H8O
reactant | 7-hydroxy-8-propyl-4-(trifluoromethyl)-2H-chromen-2-one | 0.11 mmol, 30 mg | OC1=CC=C2C(=CC(OC2=C1CCC)=O)C(F)(F)F | C13H11F3O3
reactant | 3-(4-bromobutyl)-1,5,5-trimethylimidazolidine-2,4-dione | 0.11 mmol, 30.5 mg | BrCCCCN1C(N(C(C1=O)(C)C)C)=O | C10H17BrN2O2
reactant | potassium carbonate | 0.165 mmol, 22.8 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 1,5,5-trimethyl-3-[4-[2-oxo-8-propyl-4-(trifluoromethyl)-2H-chromen-7-yloxy]butyl]imidazolidine-2,4-dione | 53.5 mg, yield 100% | CN1C(N(C(C1(C)C)=O)CCCCOC1=CC=C2C(=CC(OC2=C1CCC)=O)C(F)(F)F)=O | C23H27F3N2O5
